US04007282
3,3-Bis(4'-hydroxy-3'-tert.-butyl-phenyl)butanoic acid
200 g of 3,3-bis(4'-hydroxy-3'-tert.-butylphenyl)butanoic acid methyl ester (m.p. 82° C) were added to a solution of 40 g of sodium hydroxide in 600 ml of ethanol and the mixture was refluxed. After cooling to room temperature, the mixture was acidified with hydrochloric acid. The alcohol was removed by distillation and the solid residue was dissolved in hot toluene. The hot solution was filtered. Upon cooling, the 3,3-bis(4'-hydroxy-3'-tert.butyl-phenyl)butanoic acid precipitated from the toluene solution, m.p. 156° C.

reactant | 3,3-bis(4'-hydroxy-3'-tert.-butylphenyl)butanoic acid methyl ester | 200 g | COC(CC(C)(C1=CC(=C(C=C1)O)C(C)(C)C)C1=CC(=C(C=C1)O)C(C)(C)C)=O | C25H34O4
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 3,3-Bis(4'-hydroxy-3'-tert.-butyl-phenyl)butanoic acid | OC1=C(C=C(C=C1)C(CC(=O)O)(C)C1=CC(=C(C=C1)O)C(C)(C)C)C(C)(C)C | C24H32O4
